US07041668B2
15.6 g of 2-amino-5-(4-fluorophenylsulfonyloxy)nitrobenzene were combined with 35 ml methoxyethylamine in 100 ml dioxane in a round bottom flask. The reaction mixture was heated to reflux for 8 hours and then cooled to 40° C. and extracted two times with 250 ml water. Concentrate was solubilized with ethyl acetate and extracted with 2N aqueous HCl and water, the organic phase was then dried under reduced pressure, yielding 19.2 g of 2-amino-5-(4-[2-methoxyethyl]aminophenylsulfonyloxy)nitrobenzene (melting point 105° C.).

reactant | 2-amino-5-(4-fluorophenylsulfonyloxy)nitrobenzene | 15.6 g | NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)F)[N+](=O)[O-] | C12H9FN2O5S
reactant | methoxyethylamine | 35 ml | COCCN | C3H9NO
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-amino-5-(4-[2-methoxyethyl]aminophenylsulfonyloxy)nitrobenzene | 19.2 g | NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)NCCOC)[N+](=O)[O-] | C15H17N3O6S
